US05500423
4-[5,6-Dihydro-4H-imidazo[4,5,1-ij]quinolin-2-yl]-1-piperazinecarboxaldehyd
A solution of 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline (20.00 g) in 1-piperazinecarboxaldehyde (25.00 g) was stirred at 120° C., under nitrogen, for 1.5 hrs. The reaction mixture was quenched with dilute sodium bicarbonate solution (300 ml) and extracted with chloroform. The organic extracts were combined, washed with brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated. The residue was purified by flash chromatography (silica gel; 25:1 dichloromethane-methanol). The appropriate fractions were collected and evaporated. The residue was recrystallized twice from ethyl acetate to give 18.1 g (64%) of product, mp 138°-139° C.

reactant | 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline | 20.00 g | ClC1=NC=2C=CC=C3CCCN1C23 | C10H9ClN2
reactant | 1-piperazinecarboxaldehyde | 25.00 g | N1(CCNCC1)C=O | C5H10N2O
product | 4-[5,6-Dihydro-4H-imidazo[4,5,1-ij]quinolin-2-yl]-1-piperazinecarboxaldehyd | 18.1 g, 64% | N1=C(N2CCCC3=CC=CC1=C23)N2CCN(CC2)C=O | C15H18N4O
